US04638067
1-Ethyl-6,8-difluoro-1,4-dihydro-7-(7-methyl-2,7-diazaspiro[4.4]non-2-yl)-4-oxo-3-quinolinecarboxylic acid
A suspension of 0.64 g (3.0 mmol) 2-methyl-2,7-diazaspiro[4.4]nonane dihydrochloride in 40 ml acetonitrile was treated with 1.33 g (9.0 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene and 0.81 g (3.0 mmol) 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was added. The mixture was stirred 45 minutes at room temperature, refluxed 1.5 hours, and stirred at room temperature overnight. The precipitate was filtered and washed with acetonitrile and ether to afford 0.87 g of the title compound, mp 229°-231° C. (dec).

reactant | 2-methyl-2,7-diazaspiro[4.4]nonane dihydrochloride | 3.0 mmol, 0.64 g | Cl.Cl.CN1CC2(CC1)CNCC2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 9.0 mmol, 1.33 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.0 mmol, 0.81 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 1-Ethyl-6,8-difluoro-1,4-dihydro-7-(7-methyl-2,7-diazaspiro[4.4]non-2-yl)-4-oxo-3-quinolinecarboxylic acid | 0.87 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC2(CC1)CN(CC2)C)F)=O)C(=O)O | C20H23F2N3O3
